US07585868B2
Synthesis of 1-cyclopentyl-3-(naphthalen-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (ZK158).
3-(naphthalen-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (100 mg, 0.42 mmol) was dissolved in DMF (3 mL) and K2CO3 (220 mg, 1.6 mmol) and cyclopentyl bromide (49.5 μL, 0.46 mmol) were added. The reaction was heated to 60° C. overnight, then cooled to RT and poured into water (30 mL). The precipitate was collected by filtration. ESI-MS (M+H)+ m/z calcd 330.2, found 330.2.

reactant | 3-(naphthalen-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.42 mmol, 100 mg | C1=C(C=CC2=CC=CC=C12)C1=NNC2=NC=NC(=C21)N | C15H11N5
reactant | K2CO3 | 1.6 mmol, 220 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | cyclopentyl bromide | 0.46 mmol, 49.5 μL | C1(CCCC1)Br | C5H9Br
reactant | water | 30 mL | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-cyclopentyl-3-(naphthalen-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | C1(CCCC1)N1N=C(C=2C1=NC=NC2N)C2=CC1=CC=CC=C1C=C2 | C20H19N5
